Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Aspirin
 
Attending: ___
 
Chief Complaint:
unresponsiveness
 
Major Surgical or Invasive Procedure:
intubation ___
 
History of Present Illness:
This is a ___ W with a history
of CKD, COPD, 55 pack year smoking history, Alzheimer's 
dementia,
atrial fibrillation (not anticoagulated), hypertension, history
of right ICA occlusion and previous SAH who is transferred from
an OSH for an intracranial hemorrhage.

At baseline, we know that Ms. ___ is described to be quite
"weak", and has been sleeping more lately. She enjoys watching
TV, is able to maintain some conversation and her language
function is mostly normal. She does have difficulty with short
term memory. She is mostly functional with her ADLs, lives at
home with her husband, and depends on her husband for her
medications. Lately, she has been missing some of her
medications, and her son describes that she has been more
"sleepy" lately. 

At approximately 5pm this evening, the patient was riding in her
husband's car to ___ dinner and acutely started to moan
incoherently for a few seconds, and then started to blankly
stare. She started to froth from her mouth. Her husband thought
initially that her oxygen tank wasn't working properly, but it
was working just fine. He called EMS, and the patient was taken
to an outside hospital where she was noted to be "aphasic and 
not
moving her right side". She had one episode of vomitting, and 
out
of concern for airway protection, she was electively intubated.
She had a head CT that showed evidence of a 7cm IPH with midline
shift and concern for an underlying mass. There is a significant
SAH component, and she was transferred to the ___ for a higher
level of care. 

She was med flighted here, and was noted to be initially
hypertensive to the 170s systolic on arrival, and then started 
on
propofol which brought her pressures down to the 140s. Propofol
was held for my examination. 

 
Past Medical History:
- Chronic kidney disease with baseline Cr 1.2 
- Atrial fibrillation (not on anticoagulation), rate controlled 
- Hypertension complicated by hypertensive encephalopathy 
- History of SAH (see d/c summary from ___
- Right ICA occlusion thought to be chronic 
- Alzheimer's dementia  
- COPD on home oxygen

 
Social History:
___
Family History:
Mother died from aneurysmal rupture in ___,
father died of prostate cancer in ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Physical Exam:
Vitals: HR 61, BP 140s systolic, AF, RR 16, 100% 
Intubated on CMV ___, breathing 16 times/minutue 
General: Intubated, very limited spontaneous movements. 
HEENT: NC/AT, no conjunctival icterus noted, MMM, no lesions
noted in
oropharynx
Neck: Supple, no masses or lymphadenopathy 
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, no masses or organomegaly noted, C-section
scar well healed 
Extremities:warm and well perfused
Skin: no rashes or lesions noted.
 
Neurologic Examination (off propofol x 10 minutes): 
- There are some spontaneous movements of the left arm
- She does not follow commands, track objects.
- Her eyes are open spontaneously, but with a prominent left
ptosis 
- Pupils are reactive and equal bilaterally (5-3mm)
- Corneal and VOR reflex are absent 
- Good gag/cough, and facial grimace is grossly symmetric 
- She does not overbreathe the vent. 
- LUE localizes to pain, LLE triple flexes to pain 
- RUE just twitches to painful stimuli, RLE does flex slightly 
to
pain 
- Toes are up bilaterally, reflexes are symmetric and present
throughout 

PHYSICAL EXAM AT TIME OF DEATH at 9:00am on ___
GEN: elderly woman lying in bed, pale skin, not moving
HEENT: pupils fixed and dilated
CV: no hearbeat auscultated or palpated
PULM: no respirations auscultated or palpated
EXT: cool, not moving
 
Pertinent Results:
ADMISSION LABS:

___ 07:30PM BLOOD WBC-7.5 RBC-4.34 Hgb-12.5 Hct-37.5 MCV-86 
MCH-28.7 MCHC-33.2 RDW-12.8 Plt ___
___ 07:30PM BLOOD ___ PTT-20.7* ___
___ 07:30PM BLOOD ___
___ 02:20AM BLOOD Glucose-147* UreaN-25* Creat-1.1 Na-138 
K-4.0 Cl-99 HCO3-28 AnGap-15
___ 02:20AM BLOOD ALT-9 AST-31 CK(CPK)-128 AlkPhos-42 
TotBili-0.3
___ 07:30PM BLOOD cTropnT-0.07*
___ 02:20AM BLOOD CK-MB-10 MB Indx-7.8* cTropnT-0.40*
___ 08:09AM BLOOD CK-MB-9 cTropnT-0.44*
___ 07:30PM BLOOD Calcium-8.9 Phos-3.4 Mg-1.8
___ 07:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:31PM BLOOD Type-ART pO2-235* pCO2-41 pH-7.43 
calTCO2-28 Base XS-3 Comment-GREENTOP
___ 07:31PM BLOOD Glucose-133* Lactate-0.8 Na-145 K-3.7 
Cl-105 calHCO3-27
___ 07:31PM BLOOD freeCa-1.08*

DISCHARGE LABS:

Did not obtain as pt CMO at time of death

IMAGING: CT HEAD ___: IMPRESSION: 
1. Extensive subarachnoid hemorrhage, left frontal, parietal and 
temporal 
intraparenchymal hemorrhage, and bilateral intraventricular 
hemorrhage with effacement of the left ventricle and rightward 
shift of normally midline 
structures.  
2. Right temporal horn dilation is concerning for early 
ventricular 
entrapment and obstructive hydrocephalus. 
3. Early tonsillar herniation appears to be present. 

CTA ___: IMPRESSION: 
1. Massive left frontoparietal intraparenchymal hemorrhage with 
extensive 
vasogenic edema and approximately 7 mm of rightward shift of 
midline 
structures. 
2. Subarachnoid hemorrhage in the suprasellar cistern, 
interpeduncular fossa, 
sylvian fissures, and perimesencephalic cisterns. 
Intraventricular blood 
products in the occipital horns of the lateral ventricles. 
3. No evidence of aneurysm or other vascular anomaly. 
4. Chronically occluded proximal right internal carotid artery 
with a small amount of reconstituted flow manifest as a string 
sign, unchanged from ___. 

 
Brief Hospital Course:
This is a ___ W with a history of CKD, COPD, 55 pack year 
smoking history, Alzheimer's dementia, atrial fibrillation (not 
anticoagulated), hypertension, history of right ICA occlusion 
and previous SAH who ___ transferred from an OSH for an 
intracranial hemorrhage. Her NCHCT done here showed worsening of 
her IPH, and  extension to 9x8cm over 19 slices with a 
significant subarachnoid component and intraventricular 
component that raiseed the possibility of an aneurysmal bleed, 
particularly given that there is a family history of 
catastrophic aneurysmal rupture and death, although most likely 
etiology was amyloid angiopathy.  Her prognosis was poor given 
the extent of her hemorrhage.  CTA was done that showed no 
vessel abnormalities that led to the bleed, and pt was made CMO 
on ___.  Palliative care was consulted, and they recommended 
morphine, ativan, zofran, zyprexa and hyoscyamine PRN 
discomfort, all of which were started.  Pt died peacefully on 
___ at 9am.
 
Medications on Admission:
- CaCO3 500mg BID 
- Celexa 20mg daily 
- Lasix 20mg daily 
- Potassium Chloride 20mEq daily 
- MVI daily 
- Atrovent/Albuterol nebs 
- Diltiazem 300mg CD daily 
- Aricept 10mg daily 
- Fluticasone 250ug daily 
- NTG SL PRN daily 
- Remeron 7.5mg daily

 
Discharge Medications:
N/A pt expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Large intraparenchymal hemorrhage
 
Discharge Condition:
N/A, pt expired on ___
 
Discharge Instructions:
N/A pt expired on ___
 
Followup Instructions:
___